US05552409
a. 7-phenyl-1,2-diazapin-3-one
To a mixture of 10 g (0.052 mole) of 4-benzoylbutyric acid in 300 ml of toluene, hydrazine was added in one portion and the reaction was heated to reflux until all water had ceased to azeotrope. The reaction mixture was cooled and the toluene was stripped off in vacuo. The residue was dissolved in 200 ml Et2O and washed with H2O (100 ml) and brine (100 ml). The ether extract was dried over anhydrous MgSO4, filtered and stripped to yield an orange semisolid which was triturated with ether to yield 3.8 g (39%) of the desired product as a yellow solid.

reactant | 4-benzoylbutyric acid | 0.052 mole, 10 g | C(C1=CC=CC=C1)(=O)CCCC(=O)O | C11H12O3
reactant | water | O | H2O
reactant | hydrazine | NN | H4N2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | 200 ml | CCOCC | C4H10O
product | 7-phenyl-1,2-diazapin-3-one | 3.8 g, 39% | C1(=CC=CC=C1)C1=CC=CC(N=N1)=O | C11H8N2O
